US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2,6-dichlorobenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 2,6-dichlorobenzoyl chloride in a similar manner as described above to give a white solid (25% yield). 1H-NMR (DMSO-d6): δ 10.80 (s, 1H), 9.18 (d, 1H), 7.61 (d, 1H), 7.52 (d, 1H), 7.49 (d, 1H), 7.43 (dd, 1H), 7.36 (d, 1H), 7.19 (dd, 1H), 5.27 (m, 1H), 2.69 (m, 2H), 2.08-1.82 (m, 4H); MS m/z 437 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 2,6-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-2,6-dichlorobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H15BrCl2N2O
